* C:\Users\Logan\Documents\Projects\KiCadProj\AddressableLED\Draft3.asc
C1 Vout 0 2.2µ
R1 Vout N001 30k
V1 N001 0 PULSE(0 5 0 10n 10n {ton} {period})
.tran 0 500m 0
.param period 1/freq
.param freq=30k
.param duty=25
.param ton duty*period/100
.backanno
.end
